US08071774B2
d) 6′-Methoxy-1,6,7,8a-tetrahydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indol]-2′(1′H)-one
A solution of 31 mmol of 2′-(aminomethyl)-6-methoxyspiro[indole-3,3′-piperidin]-2(1H)-one and 31 mmol of N,N-dimethyl formamide dimethylacetal in 50 ml of dichloromethane is heated to reflux for 6 hours. The reaction mixture is cooled to room temperature and evaporated. From the residue the title compound is identified by means of flash chromatography (SiO2 60F) on the basis of the Rf value.

reactant | 2′-(aminomethyl)-6-methoxyspiro[indole-3,3′-piperidin]-2(1H)-one | 31 mmol | NCC1NCCCC12C(NC1=CC(=CC=C12)OC)=O | C14H19N3O2
reactant | N,N-dimethyl formamide dimethylacetal | 31 mmol | COC(N(C)C)OC | C5H13NO2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 6′-Methoxy-1,6,7,8a-tetrahydro-5H-spiro[imidazo[1,5-a]pyridine-8,3′-indol]-2′(1′H)-one | COC1=CC=C2C3(C(NC2=C1)=O)C1N(CCC3)C=NC1 | C15H17N3O2
